US07935725B2
Step A: (4-Benzooxazol-2-ylmethyl-phenyl)-methanol.
A mixture of (4-hydroxymethyl-phenyl)-acetic acid (5.0 g, 30.1 mmol) and 2-amino-phenol (6.6 g, 60.2 mmol) was heated at 180° C. for 3 h. The crude residue was cooled and then dissolved in THF (50 mL). The resulting solution was treated with carbonyldiimidazole (3.7 g, 22.5 mmol) and stirred at 80° C. for 72 h. The reaction mixture was then partitioned between EtOAc (200 mL) and water (200 mL). The organic layer was dried (MgSO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 80% EtOAc in hexanes) followed by a second silica gel flash chromatography (0% to 10% CH3OH in CH2Cl2) afforded a colorless oil. The crude oil was then partitioned between EtOAc (200 mL) and 1 N NaOH (200 mL). The organic layer was dried (MgSO4), filtered and concentrated to afford the title compound as a colorless oil (1.5 g, 20%). MS (ESI): mass calcd. for C15H13NO2, 239.09; m/z found, 240.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.70-7.68 (m, 1H), 7.49-7.46 (m, 1H), 7.40-7.35 (m, 4H), 7.33-7.29 (m, 2H), 4.69 (br d, J=4.5. Hz, 2H), 4.28 (s, 2H).

reactant | (4-hydroxymethyl-phenyl)-acetic acid | 30.1 mmol, 5.0 g | OCC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | 2-amino-phenol | 60.2 mmol, 6.6 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | carbonyldiimidazole | 22.5 mmol, 3.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-Benzooxazol-2-ylmethyl-phenyl)-methanol | 1.5 g, 20% | O1C(=NC2=C1C=CC=C2)CC2=CC=C(C=C2)CO | C15H13NO2
